US07834019B2
1) Production of 2-(2,6-dimethyl-4-nitrophenoxy)-N,N-dimethylethylamine
3.4 mL of diisopropyl azodicarboxylate was added to 1.9 g of 2,6-dimethyl-4-nitrophenol and 1.71 mL of 2-dimethylaminoethanol, and stirred at room temperature for 16 hours. The reaction liquid was diluted with ethyl acetate, and the organic layer was extracted with 2 N hydrochloric acid. The aqueous layer was made basic with aqueous 2 N sodium hydroxide solution, and then extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure to obtain 667 mg of the entitled compound.

reactant | diisopropyl azodicarboxylate | 3.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2,6-dimethyl-4-nitrophenol | 1.9 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | 2-dimethylaminoethanol | 1.71 mL | CN(CCO)C | C4H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-dimethyl-4-nitrophenoxy)-N,N-dimethylethylamine | 667 mg | CC1=C(OCCN(C)C)C(=CC(=C1)[N+](=O)[O-])C | C12H18N2O3
